US07378447B2
Add methyl trifluoromethanesulfonate (65.5 mg, 0.4 mmol) to a solution of N-(2-(pyridin-2-ylsulfanyl)ethyl)thioacetamide (85.0 mg, 0.4 mmol) in methylene chloride (10 mL) under nitrogen. Stir the reaction mixture at room temperature for 5 minutes and remove the solvent under reduced pressure to give N-[2-(pyridin-2-ylsulfanyl)ethyl)thioacetimidic acid methyl ester (0.4 mmol) as a colorless oil. MS (ES): m/z 227 (M+H).

reactant | methyl trifluoromethanesulfonate | 0.4 mmol, 65.5 mg | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | N-(2-(pyridin-2-ylsulfanyl)ethyl)thioacetamide | 0.4 mmol, 85.0 mg | N1=C(C=CC=C1)SCCNC(C)=S | C9H12N2S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(pyridin-2-ylsulfanyl)ethyl)thioacetimidic acid methyl ester | 0.4 mmol | CSC(C)=NCCSC1=NC=CC=C1 | C10H14N2S2
